US09447078B2
Addition of CH3CN to 4-bromothiophene-2-carbaldehyde following the method used in Example 2 gave 3-(4-bromothiophen-2-yl)-3-hydroxypropanenitrile as a light brown oil which was used in the next step without additional purification. Yield (1.95 g, 80%).

reactant | 4-bromothiophene-2-carbaldehyde | BrC=1C=C(SC1)C=O | C5H3BrOS
reactant | CH3CN | CC#N | C2H3N
product | 3-(4-bromothiophen-2-yl)-3-hydroxypropanenitrile | BrC=1C=C(SC1)C(CC#N)O | C7H6BrNOS
